US04419517
A. N-Cyclopropylmethyl-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline
4a-(m-Methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6, 7-octahydroisoquinoline (99 g, 0.365 moles) in 1000 ml of anhydrous dimethylformamide was added dropwise to a 55% suspension of sodium hydride in mineral oil (19.8 g) in 500 ml of dimethylformamide at 70°. The reaction mixture was heated for 1 hour at 80° and then cooled to 25°. Cyclopropylmethylmesylate (59.6 g) was added and the reaction mixture heated at 70°-80° for one hour and stirred overnight. It was poured into water and extracted with ether. The residue after evaporation of the ether was chromatographed on 800 g of Florisil. The final product, after evaporative distillation at 190° (1μ), amounted to 50 g.

reactant | 4a-(m-Methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6, 7-octahydroisoquinoline | 0.365 moles, 99 g | COC=1C=C(C=CC1)C12CC(NC(C2=CCCC1)=O)=O | C16H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | Cyclopropylmethylmesylate | 59.6 g | C1(CC1)CCS(=O)(=O)[O-]
reactant | water | O | H2O
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-Cyclopropylmethyl-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | C1(CC1)CN1C(C2=CCCCC2(CC1=O)C1=CC(=CC=C1)OC)=O | C20H23NO3
